2169-02-24 06:32:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
 INVASIVE VENTILATION - START [**2169-2-23**] 01:00 PM
 BRONCHOSCOPY - At [**2169-2-23**] 03:41 PM
   evidence of trauma thought to be from intubation.  Old blood.  BAL
   performed
 ARTERIAL LINE - START [**2169-2-23**] 06:51 PM
 LUMBAR PUNCTURE - At [**2169-2-23**] 08:26 PM
 MAGNETIC RESONANCE IMAGING - At [**2169-2-23**] 10:15 PM
         Trop <0.01 -->  0.20 --> 0.09
 EKG - At [**2169-2-24**] 12:20 AM: unchanged from baseline
 FEVER - 101.1
F - [**2169-2-23**] 08:00 PM
   History obtained from Medical records
   Patient unable to provide history: Sedated, Unresponsive
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2169-2-23**] 08:15 PM
   Acyclovir - [**2169-2-23**] 09:18 PM
   Ceftriaxone - [**2169-2-24**] 12:03 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2169-2-23**] 08:51 PM
   Fentanyl - [**2169-2-23**] 10:30 PM
   Midazolam (Versed) - [**2169-2-23**] 10:45 PM
   Heparin Sodium (Prophylaxis) - [**2169-2-24**] 05:28 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: NPO
   Genitourinary: Foley
   Flowsheet Data as of  [**2169-2-24**] 06:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.4
C (99.3
   HR: 86 (80 - 125) bpm
   BP: 111/67(84) {99/57(72) - 150/91(111)} mmHg
   RR: 15 (14 - 19) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,667 mL
                                                                  1,109 mL
   PO:
             TF:
   IVF:
                                                                    537 mL
                                                                  1,109 mL
   Blood products:
   Total out:
                                                                    538 mL
                                                                    260 mL
   Urine:
                                                                    538 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,129 mL
                                                                    849 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   RR (Set): 8
   RR (Spontaneous): 9
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 50
   PIP: 8 cmH2O
   Plateau: 18 cmH2O
   Compliance: 43.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.37/45/114/22/0
   Ve: 8.2 L/min
   PaO2 / FiO2: 285
   Physical Examination
   General Appearance: Overweight / Obese, sedated
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: No(t) Cervical WNL, No(t) Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), coarse breath sounds
   bilaterally
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   Obese
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm, No rash
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   309 K/uL
   10.4 g/dL
   137 mg/dL
   0.8 mg/dL
   22 mEq/L
   3.3 mEq/L
   12 mg/dL
   109 mEq/L
   141 mEq/L
   30.5 %
   7.4 K/uL
        [image002.jpg]
                             [**2169-2-23**]  03:15 PM
                             [**2169-2-23**]  07:04 PM
                             [**2169-2-23**]  07:52 PM
                             [**2169-2-24**]  04:20 AM
                             [**2169-2-24**]  04:43 AM
   WBC
   7.8
   7.4
   Hct
   34.5
   30.5
   Plt
   364
   309
   Cr
   0.9
   0.8
   TropT
   0.20
   0.09
   TCO2
   27
   27
   Glucose
   113
   137
   Other labs:
   PT / PTT / INR:13.4/24.7/1.1,
   CK / CKMB / Troponin-T:330/5/0.09 TROP <0.01
 0.20
 0.09
   ALT / AST:23/27, Alk Phos / T Bili:68/0.3
   Ca++:7.7 mg/dL, Mg++:1.5 mg/dL, PO4:2.7 mg/dL
   Fluid analysis / Other labs:
   Source: LP; TUBE#2
                                     CSF
                                  Chemistry
                                    Protein
                                     45
                                    Glucose
                                     78
     CSF
                                      WBC
                                      2
                                      RBC
                                      8
                                     Poly
                                      3
                                     Lymph
                                     75
                                     Mono
                                     22
                                      EOs
   SOURCE: LP TUBE #4
   Imaging:
   ? need for NG tube to be advanced
   ECG:
   Small ST depressions V4-V6
   Assessment and Plan
   52 yo female with PMHx sig. for HTN, CHF, asthma who presents with URI
   symptoms, acute mental status changes, found to have pneumonia,
   intubated for airway protection and respiratory distress.
   # Respiratory distress:  She is not requiring high amounts of oxygen.
   There is some evidence of pneumonia on her chest CT.  It's unclear
   whether this is a bacterial superinfection from her viral URI, aytpical
   pneumonia, or aspiration pneumonia secondary to her acute mental status
   changes.  CTA did not reveal a PE.  She does not seem volume
   overloaded.
   - f/u micro including flu and BAL cultures
   - wean sedation
   - cont empiric CTX and levaquin for CAP
   - start tamiflu for empiric concern given preceding URI sx
   - send BAL washings to state for PCR
   # ? tracheal injury from intubation
   Blood outside ET tube on BAL and in lung w/o e/o active bleeding.
   -Repeat BAL and if e/o active bleeding may be wise to hold off on
   extubation. If no further blood, extubate and monitor for changes in
   Hct, vitals. Concern would be for development of tracheo-esophageal
   fistula, pneumothorax/pneumomediastinum
   # Acute mental status changes:  Concerning for
   meningitis/encephalitis.  CSF and h/o of URI could be c/w aseptic
   meningitis.  Currently, she is too sedated for an adequate neuro exam.
   Reportedly, her neuro exam was normal at [**Doctor First Name 2653**].  CT head does not show
   any acute pathology.  [**Month (only) 51**] be a concussion from the fall, which was
   severe enough to cause humeral fracture.  She also had ativan,
   morphine, and possibly dilantin at the OSH; however, she was altered
   prior to arrival.
   - switch to propofol to assess mental status
   - f/u CSF
   - f/u MRI read
   - EEG to assess for seizures but will hold AEDs for now
   - d/c acyclovir as no WBCs in CSF
   - no need to treat for bacterial meningitis so decrease CTX to 1g for
   PNA
   # s/p fall
   Still unclear etiology.  [**Month (only) 51**] consider further w/u for syncope when able
   to obtain more h/o from patient. No e/o arrhythmia on telemetry.
   # Troponin bump
   Was normal in ED. Peaked at 0.2 and now trending down. No change on ECG
   but does have minimal ST dep V4-V6 on ECG from ED. Would recommend
   outpt f/u. On aspirin.
   # L humeral fracture:
   - Needs sling, likely nonoperative
   - Ortho following, appreciate recs
   # HTN: Was on triamterene/HCTZ and verapamil at home
   - have been holding antihypertensives for now
   - given only peripheral access and concern for sepsis will continue to
   hold for now and treat prn
   # CHF:  Not on ACEI, [**Last Name (un) **], or Lasix at home.  Currently not volume
   overloaded.
   - monitor volume status
   - consider ECHO (also for sycope w/u if indicated)
   # Asthma:  Not currently wheezy.
   - albuterol/ipratropium MDIs prn
   ICU Care
   Nutrition:
   Will place NGT prior to extubation
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-2-23**] 01:44 PM
   Arterial Line - [**2169-2-23**] 06:51 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2169-02-25 08:12:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:  62 y o lady with HTN, CHF, asthma, here s/p fall/being found
   down, AMS, ?CAP, now extubated
   24 Hour Events:
   Bronch yesterday - scant blood in distal segmental airways, decreased
   from the day prior, no active bleeding
   Extubated
   Narrowed to Levo + CTX for CAP
   Tamiflu added empirically
   Neck CT done, neck cleared clinically and C collar removed
   History obtained from Patient
   Allergies:
   Last dose of Antibiotics:
   Vancomycin - [**2169-2-23**] 08:15 PM
   Acyclovir - [**2169-2-23**] 09:18 PM
   Ceftriaxone - [**2169-2-25**] 12:00 AM
   Infusions:
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2169-2-24**] 08:00 PM
   Morphine Sulfate - [**2169-2-25**] 03:00 AM
   Heparin Sodium (Prophylaxis) - [**2169-2-25**] 06:06 AM
   Other medications:
   Colace
   Heparin 5000 TID
   Levoflox 750 Q48 hours
   Singulair 10 mg daily
   ASA 325 daily
   Ranitidine 150 [**Hospital1 7**]
   Tamiflu 75 [**Hospital1 **]
   CTX 1gm Q24 hours
   PRNs: morphine 2 mg x 1
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2169-2-25**] 08:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**71**] AM
   Tmax: 37.1
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 89 (88 - 121) bpm
   BP: 132/67(83) {109/57(69) - 145/81(97)} mmHg
   RR: 19 (14 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 62 Inch
             Total In:
                                                                  1,772 mL
                                                                    872 mL
   PO:
                                                                    100 mL
                                                                    240 mL
   TF:
   IVF:
                                                                  1,582 mL
                                                                    632 mL
   Blood products:
   Total out:
                                                                  1,010 mL
                                                                    290 mL
   Urine:
                                                                  1,010 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    762 mL
                                                                    582 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 325 (325 - 325) mL
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 5 cmH2O
   SpO2: 96%
   ABG: ///23/
   Ve: 6.4 L/min
   Physical Examination
   Gen: awake, alert, appropriate
   Neck:
   Chest:
   CV:
   Abd:
   Extr:
   Neuro:
   Labs / Radiology
   10.2 g/dL
   351 K/uL
   94 mg/dL
   0.6 mg/dL
   23 mEq/L
   4.0 mEq/L
   11 mg/dL
   110 mEq/L
   141 mEq/L
   30.2 %
   7.0 K/uL
        [image002.jpg]
                             [**2169-2-23**]  03:15 PM
                             [**2169-2-23**]  07:04 PM
                             [**2169-2-23**]  07:52 PM
                             [**2169-2-24**]  04:20 AM
                             [**2169-2-24**]  04:43 AM
                             [**2169-2-24**]  08:25 PM
                             [**2169-2-25**]  06:02 AM
   WBC
   7.8
   7.4
   7.9
   7.0
   Hct
   34.5
   30.5
   31.3
   30.2
   Plt
   364
   309
   327
   351
   Cr
   0.9
   0.8
   0.6
   0.6
   TropT
   0.20
   0.09
   TCO2
   27
   27
   Glucose
   113
   137
   113
   94
   Other labs: PT / PTT / INR:13.1/21.9/1.1, CK / CKMB /
   Troponin-T:330/5/0.09, ALT / AST:18/23, Alk Phos / T Bili:58/0.2,
   Amylase / Lipase:/19, Lactic Acid:0.9 mmol/L, Albumin:2.9 g/dL, LDH:221
   IU/L, Ca++:8.1 mg/dL, Mg++:2.1 mg/dL, PO4:2.9 mg/dL
   Micro:
   Studies:
   MRI head [**2-23**]: IMPRESSION: 1. No evidence of acute intracranial
   process. 2. Nonspecific T2/FLAIR hyperintensities in the
   periventricular and subcortical white matter, likely due to chronic
   small vessel ischemic disease. 3. Right parotid enhancing nodule.
   Differential includes pleomorphic adenoma. Clinical correlation
   recommended.
   EEG: mild encephalopathy
   Assessment and Plan
   52 yo female with PMHx sig. for HTN, CHF, asthma who presents with URI
   symptoms, acute mental status changes, found to have pneumonia,
   intubated for airway protection and respiratory distress.
   # Respiratory distress:  She is not requiring high amounts of oxygen.
   There is some evidence of pneumonia on her chest CT.  It's unclear
   whether this is a bacterial superinfection from her viral URI, aytpical
   pneumonia, or aspiration pneumonia secondary to her acute mental status
   changes.  CTA did not reveal a PE.  She does not seem volume
   overloaded.
   - f/u micro including flu and BAL cultures
   - wean sedation
   - cont empiric CTX and levaquin for CAP
   - start tamiflu for empiric concern given preceding URI sx
   - send BAL washings to state for PCR
   # ? tracheal injury from intubation
   Blood outside ET tube on BAL and in lung w/o e/o active bleeding.
   -Repeat BAL and if e/o active bleeding may be wise to hold off on
   extubation. If no further blood, extubate and monitor for changes in
   Hct, vitals. Concern would be for development of tracheo-esophageal
   fistula, pneumothorax/pneumomediastinum
   # Acute mental status changes:  Concerning for
   meningitis/encephalitis.  CSF and h/o of URI could be c/w aseptic
   meningitis.  Currently, she is too sedated for an adequate neuro exam.
   Reportedly, her neuro exam was normal at [**Doctor First Name 2653**].  CT head does not show
   any acute pathology.  [**Month (only) 51**] be a concussion from the fall, which was
   severe enough to cause humeral fracture.  She also had ativan,
   morphine, and possibly dilantin at the OSH; however, she was altered
   prior to arrival.
   - switch to propofol to assess mental status
   - f/u CSF
   - f/u MRI read
   - EEG to assess for seizures but will hold AEDs for now
   - d/c acyclovir as no WBCs in CSF
   - no need to treat for bacterial meningitis so decrease CTX to 1g for
   PNA
   # s/p fall
   Still unclear etiology.  [**Month (only) 51**] consider further w/u for syncope when able
   to obtain more h/o from patient. No e/o arrhythmia on telemetry.
   # Troponin bump
   Was normal in ED. Peaked at 0.2 and now trending down. No change on ECG
   but does have minimal ST dep V4-V6 on ECG from ED. Would recommend
   outpt f/u. On aspirin.
   # L humeral fracture:
   - Needs sling, likely nonoperative
   - Ortho following, appreciate recs
   # HTN: Was on triamterene/HCTZ and verapamil at home
   - have been holding antihypertensives for now
   - given only peripheral access and concern for sepsis will continue to
   hold for now and treat prn
   # CHF:  Not on ACEI, [**Last Name (un) **], or Lasix at home.  Currently not volume
   overloaded.
   - monitor volume status
   - consider ECHO (also for sycope w/u if indicated)
   # Asthma:  Not currently wheezy.
   - albuterol/ipratropium MDIs prn
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2169-2-23**] 01:43 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent: